US09079866B2
Step A: N-(2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide
To a solution of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1 g, 5 mmol) in pyridine (20 mL) was added methanesulfonyl chloride (627 mg, 5.5 mmol) and the mixture stirred at rt for 24 hours. The solvent was then removed under reduced pressure, and the resulting residue redissolved in DCM (200 mL), washed with 1 N HCl (1×100 mL) and 20% NaHCO3 (1×100 mL). The organic layer was then isolated, dried (Na2SO4) and concentrated to dryness. The crude product was purified by crystallization from DCM/hexanes to give the title compound (700 mg, 52%). 1H NMR (400 MHz, CDCl3) δ 8.43 (s, 1H), 7.82-7.77 (m, 1H), 7.59 (d, J=8.2, 1H), 7.51-7.43 (m, 1H), 7.17-7.10 (m, 1H), 2.95 (s, 3H), 1.37 (s, 12H).

reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 5 mmol, 1 g | CC1(OB(OC1(C)C)C1=C(N)C=CC=C1)C | C12H18BNO2
reactant | methanesulfonyl chloride | 5.5 mmol, 627 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 700 mg, 52% | CC1(OB(OC1(C)C)C1=C(C=CC=C1)NS(=O)(=O)C)C | C13H20BNO4S
